US09431145B2
(a) Synthesis of 4-chloro-2-methoxyaniline
A mixture of 5-chloro-2-nitroanisole (1.0 g, Sigma-Aldrich), ammonium formate (3.36 g, Alfa-Aesar) and 10% platinum on carbon (100 mg) in MeOH (10 mL) was heated to reflux for 45 minutes then cooled to room temperature and filtered through celite, washing with MeOH. The filtrates were concentrated and the residue was dissolved in EtOAc and water. The organics were dried (MgSO4) and concentrated to a brown oil. The material was absorbed onto silica and columned eluting ethyl acetate/heptane mixtures to give the product as a brown oil. Yield: 0.7 g. 1H NMR (400 MHz, CDCl3): δ 6.72-6.78 (2H, m, ArH), 6.58-6.62 (1H, m, ArH), 3.83 (3H, s, OMe).

reactant | 5-chloro-2-nitroanisole | 1.0 g | ClC=1C=CC(=C(C1)OC)[N+](=O)[O-] | C7H6ClNO3
reactant | ammonium formate | 3.36 g | C(=O)[O-].[NH4+]
catalyst | platinum on carbon | 100 mg | [Pt] | Pt
solvent | MeOH | 10 mL | CO | CH4O
product | 4-chloro-2-methoxyaniline | ClC1=CC(=C(N)C=C1)OC | C7H8ClNO
